Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
" I got into a fight with my roommate, who is like family, and 
pretended to take a bunch of pills."
 
Major Surgical or Invasive Procedure:
None performed
 
History of Present Illness:
Per ED Report

"Mr. ___ is a ___ year-old M with self-reported history of
depression, anxiety, and ADHD who presented to the ED on a
___ from ___ after his roommate called the 
police
due to escalating aggression and suicidal statements. 

Per Dr. ___ ___ Initial ED Psychiatry Consult 
Note:

"On interview, patient states he wants the interview to be kept
short so he can be discharged. He states that his roommate is a
social worker and therefore "did what she had to do to get me
here". He reports that she wanted him out of the apartment and
made him a lie to get him sent to the emergency room. He reports
that he discontinued Lexapro instead of tapering because he
wanted "to get it over faster" ~3 weeks ago and noticed suicidal
thoughts which he had never had before. He reports that these
have now resolved and denies making suicidal statements/gestures
today. He currently denies suicidal ideation/intent/plan. 

He reports that he has had longstanding anger issues and got in
an argument today with his roommates but denies that he
threatened to take his own life or threatened them in any way. 
He
refuses to discuss the content of their argument or what was
said. 

He reports good sleep, good appetite, fair concentration. He
denies feelings of hopelessness, helplessness, and worthlessness
and reports that his mood has been angry. He reports decreased
motivation since discontinuing Lexapro. 

He describes financial stress but denies any other acute
stressors.

COLLATERAL:
Spoke with ___ (roommate) @ ___

___ states that ___ has been living with her and her husband 
for
___ years since they met him through a mutual friend. He was
homeless at the time and they took him in with the condition 
that
he would either be in school or work. He has always had anger
issues but over the last month, things have escalated. He 
stopped
taking his Lexapro "cold ___ without the guidance of his
psychiatrist a few weeks ago. He has been somewhat vaguely
paranoid saying things like "you know what you're doing"
completely out of context. He has also been more destructive and
extremely angry. On ___, he smashed a picture frame and was
throwing things. This morning, ___ husband, ___, asked ___
not to slam the back door and ___ responded by ___ 
"f***
you". He began ___ and calling ___ dozens of times with
profanities and stating "I'm going to murder anyone" and then
came home and screamed at both of them making some threatening
remarks such as "I'm gonna kill someone". He wouldn't sit down
and was escalating, then ran to the kitchen and grabbed a bottle
of pills and tried to pour them down in his mouth. He may have
taken a couple tablets but ___ grabbed the bottle out of his
hand and most of them spilled onto the floor. He has been saying
he is suicidal for several weeks and has reported researching
suicide methods online to her. She is very concerned as he is 
not
at his baseline and he is not welcome to come back tonight due 
to
his behavior and agitation.  

Left VM for ___ (therapist) @ ___ @ ___

Left VM for ___ (psychiatric NP) @ ___ 
___ @ ___

Per Dr. ___ ___ Brief Collateal Note- collateral from
___ (psychiatric NP at ___) ___:

___ reports that she has been treating ___ since ___.
She reports that Mr. ___ was diagnosed with ADHD during
childhood. He was on vyvanse 10 daily and  Lexapro 20 mg daily
for a while, and was stable.  Due to increased difficulty
concentrating later in the day, he was given an additional dose
of Vyvanse 10 mg daily in the afternoon. She denies ever having
concerns about overuse of stimulants as he has typically been 
the
one that asked for less even when offered increased dosage.
Additionally, the patient had been on lorazepam at one point for
anxiety in the past, but asked to go off of this medication as 
he
did not like how this made him feel. 

Recently the patient got involved in a relationship with a 
woman,
sexual side effects were unacceptable to him. She recommended
decreased dose, but the patient stopped Lexapro "cold ___
instead, he had some discontinuation symptoms, however has been
stable at this time. 

___ reports that she last saw Mr. ___ 10 days ago, 
when
he reported feeling increasingly depressed, however wanted a
medication without sexual side effect. She started him on
wellbutrin at this time. She does report that she has been
worried about him recently, as he has been guarded and can get
agitated and then settles down. She reports that he can be
flighty and often misses appointments and then is apologetic
afterwards. In their sessions, some anger issues do come up time
to time, however she has never witnessed him to behave in the 
way
he did on presentation to the ED. She has not noted specific
bipolar symptoms in the past, however at this time ___
reports she is concerned for possible bipolar disorder. 

She states that he has a complicated past history including
homelessness, foster care and incarceration as a teen. She
believes he has a history of physical abuse by his father, but
they have not discussed trauma specifically. She reports that 
his
parents divorced before he was born, he reportedly missed a lot
of school, homeless for a while, living in cars. He did have
legal issues at age ___, and was reportedly arrested multiple
times (fighting/assault/drug use. At some point he was placed in
juvenile delinquent school, as well as spent a couple of months
in jail, and then was removed from his mother's care with 
concern
for her inability to care for him. In terms of recent legal
issues, the patient has been much better in the last several
years, with no reported arrests or legal issues." 

Per Dr. ___, while in the ED, "patient became
increasingly agitated and escalated requiring multiple chemical
and mechanical restraints in the presence of security." Mr.
___ received the following medication while in the ED:
___ 20:20 IM DiphenhydrAMINE 50 mg
___ 20:43 IM LORazepam 2 mg
___ 20:43 IM Haloperidol 5 mg  
___ 20:45 IM LORazepam 2 mg 
___ 20:45 IM Haloperidol 5 mg 
___ 20:45 IM DiphenhydrAMINE 50 mg 
___ 14:10 PO/NG Gabapentin 100 mg
___ 14:10 PO BuPROPion XL (Once Daily) 150 mg

Mr. ___ was medically cleared prior to admission to Deac 4.  


On admission to the inpatient unit, Mr. ___ confirmed the
history obtained in the ED, with the following additions. He
explained that he has been having a number of "small arguments"
with his roommate (referring to ___ recently and that he 
wanted
to "scare her". He explains that he pretended to overdose on
pills "for shock value" in order to "see how [___] would 
react".
He denied suicidal ideation during that incident and continues 
to
deny SI at the moment. He agreed to notify staff members if he
experiences thoughts of self-harm or suicidal thoughts; he was
adamant about not wanting to hurt himself and said that he wants
to go home as soon as possible.

Mr. ___ explained that he experienced suicidal thoughts 
about
one week after abruptly discontinuing his Lexapro, which was
approximately 2 weeks ago. He explains that the thoughts were
self-limited for one day and he did not consider about acting on
those thoughts "I think of myself as a stronger person than
that". He denied ever researching ways to injure himself or
commit suicide; he explained that he told ___ that he had
research ways to commit suicide "to scare her", and that "I
wasn't serious about it". He also denied any thoughts or plans 
of
being aggressive or hurting someone else. 

Mr. ___ reports that his mood is "fine". He did acknowledge
"angry" mood a few days prior, in the setting of arguing with 
his
roommates denied any changes in sleep, energy, concentration, or
motivation, and denies psychomotor slowing. He denied changes in
appetite. He deniesd anhedonia or feelings of helplessness or
hopelessness, saying that he is looking forward to returning to
school, and to his hobbies, biking and painting. Mr. ___
denied symptoms of anxiety, mania, or psychosis. 

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: per HPI
---Anxiety: Denies symptoms of anxiety such as worry, 
rumination,
intrusive thoughts, avoidance, phobias, panic.
---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.

-General: Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, changes in vision, changes in
hearing, heat intolerance, cold intolerance, polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, dysuria, increased
urinary frequency, rash, skin changes, joint pain, muscle pain,
edema, bruising, bleeding. "

 
Past Medical History:
-h/o head injury in ___ s/p bike accident w/ LOC, and inability 
to recal period from accident to hospital ddischarge

-denies h/o seizures

 
Social History:
 - Born/Raised: Patient reports he was raised in multiple states 
but declines to elaborate. Went to ___ in ___, ___, and ___ and then 
dropped out. 
 - Family/Support: Denies supports. Not in contact with family 
members
 - Relationship status/Children: Single, no children
 - Housing: Lives in apartment in ___ with two roommates
 - Education: Dropped out of ___, got GED. Was in regular 
education. He reported that he is currently enrolled at ___ 
___ studying "for an ___ 
___ to ___".
 - Employment/Income: works as a ___, reports financial 
struggles
 - Spiritual: denies 
 - Trauma history: + history of physical/emotional abuse in 
childhood
h/o substance use: has used "a number of substances including: 
PCP, ___, and alcohol" - has been sober for ___ years

Denies tobacco use

Denies caffeine use

Denies current illicit substances or IVDU

FORENSIC HISTORY:
___
Family History:
 - History of psychiatric disorders: mother and father with 
depression
 - History of suicide attempts: denies
 - History of substance use: father - EtOH 
 
Physical ___:
ADMISSION:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "People believe that things are better but they
aren't necessarily"
-Visuospatial: Clock showing 12:50 was drawn accurately. 
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Caucasian man appearing stated age, with short dark
hair, neatly trimmed full beard, appropriate grooming and
hygiene, wearing hospital gown, anxious appearing.
-Behavior: Sitting in chair, appropriate eye contact, 
significant
psychomotor agitation, frequently changing position in chair,
crossing/uncrossing arms and legs
-Attitude: Cooperative, engaged, friendly
-Mood: "fine"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

================================================================

DISCHARGE:

Mental Status:
-Appearance: Caucasian man appearing stated age, with short dark
hair, neatly trimmed full beard, appropriate grooming and
hygiene, wearing street clothing, anxious appearing.
-Behavior: Sitting in chair, appropriate eye contact, no 
evidence of psychomotor agitation 
-Attitude: Cooperative, engaged, friendly
-Mood: "fine"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: limited
 
Pertinent Results:
___ 07:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:19PM   GLUCOSE-96 UREA N-13 CREAT-0.8 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-26 ANION GAP-14
___ 06:19PM   CALCIUM-9.5 PHOSPHATE-2.0* MAGNESIUM-2.1
___ 06:19PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:19PM   WBC-7.6 RBC-5.05 HGB-15.6 HCT-46.3 MCV-92 
MCH-30.9 MCHC-33.7 RDW-12.2 RDWSD-41.0
___ 06:19PM   NEUTS-70.5 LYMPHS-15.6* MONOS-10.6 EOS-2.3 
BASOS-0.7 IM ___ AbsNeut-5.33 AbsLymp-1.18* AbsMono-0.80 
AbsEos-0.17 AbsBaso-0.___. LEGAL & SAFETY:  

Mr. ___ refused to sign a conditional voluntary agreement 
and was admitted on a ___, which expired on ___. 
Mr. ___ was discharged on ___. He was placed on 15 
minute checks and remained under this level of supervision 
through-out the remainder of his hospitalization. 

2. PSYCHIATRIC:
Hospital Course 
Mr. ___ is a ___ year old M w/ self-reported h/o depression, 
anxiety, ADHD who presented to ED on ___ from ___ after his roommate called the police due to escalating 
aggression and suicidal statements. 

On interview Mr. ___ stated that during the day of 
presentation he had gotten into several arguments with his 
"roommate' and reportedly wanted to 'scare her" or " get a 
reaction from her" so he made suicidal statements and made a 
suicidal gesture of threatening to take the bottle of his 
Welbutrin medication. He stated he never intended to take this 
medication at the time, and that he only wanted to test out how 
much his roommate care about him. Regarding his periods of 
escalation requiring restraints in the ___ ED he states that 
he was again becoming irritable and wanted to leave the 
emergency room. He also reported feeling triggers by seeing 
people in uniform and reminded him if his days in juvenile 
detention. He therefore reports escalating, yelling, cursing, 
requiring him to be restrained multiple times. He noted that his 
anger and explosive behavior had been more difficult to control 
since being started on the Welbutrin. He denied prior episodes 
being as bad as the ones in the ED. Regarding suicidal ideation 
he did endorse a past suicidal ideation, in the context of 
stopping his Lexapro. He noted these feelings were transient, 
and denied any recent suicidal ideation at time of assessment in 
the ED and during initial intake. On initial encounter patient 
reported his mood was calm, he denied
neuro-vegetative symptoms of depression, symptoms of anxiety, 
mania, or psychosis. He stated he wished to be discharge from 
the inpatient unit as he felt he had learned from his recent 
outburst and reported feelings of remorse. On initial MSE 
patient was noted to be calm, cooperative and engaged with 
interview, he was also noted to be eager to please. His affect 
was euthymic, normal rate, tone and volume and speech. No 
evidence of psychomotor agitation or retardation. Thought 
process was linear and logical, there was lack of clinical 
evidence to support a diagnosis of bipolar affective disorder at 
this time. Given patients history of aggression, behavioral 
dysregulation. Given his endorsement and collateral significant 
for extreme outbursts of anger disproportionate to the situation 
and history of impulsivity a diagnosis of intermittent explosive 
disorder appears to explain most of this patients symptoms. 
Another consideration given his past medical history of 
concussion, must consider a diagnosis of traumatic brain injury. 
In order to address his symptoms of impulsivity, irritability 
and mood lability patient was started on Clonidine 0.1 mg on 
___ which he tolerated well. Patient was continued on home 
Gabapentin and Wellbutrin. Would also strongly suggest use of 
mood stabilizing medication such as Lamical for long term 
management of patients symptoms, which could be started by 
outpatient providers. Also, we strongly recommended pt to stop 
Vyvanse (if possible) to minimize risk of increased anxiety and 
mood fluctuation.

Family meeting was held with patient's roommates on ___. 
Where discharge planning was addressed. 
Pt's roommate (___) shared her observations and concerns: issue 
of anxiety/irritability, pt being "defiant" (quick to say "no" 
when asked to do something). Pt has issue with anger control 
(yelling, property damage) but no personal assault.
We shared team's impression and tx recommendations. Pt's 
roommate feels comfortable that pt returns home after the 
discharge.
To help pt and roommate to better process meeting, we agreed 
that pt be discharged on ___. 

At time of discharge patient was not endorsing suicidal 
ideation, and he had remained under adequate behavioral control 
during this hospitalization. He was provided with appointments 
with outpatient therapist and psychiatrist, as well as PCP 
___.

3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any active substance use disorders, 
and therefore did not require any counseling or treatment in 
this regard.

4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to ___ 4. Additionally, Mr. ___ 
has no chronic medical issues which required medical attention 
while hospitalized.

5. PSYCHOSOCIAL

GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended these groups.   Mr. ___ was visible on the milieu 
and appropriately interacted with staff and peers, and was able 
to maintain focus on his task for the duration of the session.

COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact her/his outpatient ___, 
___ NP and outpatient therapist. Both were provided with 
a summary of Mr. ___ presentation to the ___ ED/___ 4 
and an update of her progress since admission on Deac 4, and 
they provided collateral information and treatment 
recommendations.

Mr. ___ gave verbal and written permission for the team to 
contact her/his family member, ___, who was also given an 
update on Mr. ___ progress while admitted and discharge 
plan.

This social worker met with patient, patient's roommate and HCP, 
___ and attending psychiatrist, Dr. ___ to 
discuss safe aftercare plan.

It was determined that patient will return home to live with 
roommate and roommate's
husband and return to his therapist, ___ at ___ 
___. In addition, he will meet with 
his prescriber, ___, NP at ___ 
___. He has also scheduled an appointment with a PCP, 
___, MD at ___ in ___, ___. 

6. INFORMED CONSENT: 
Medication: Clonidine
---Intended effects/Benefits: Improve attention, mood 
stabilization
---Adverse effects/Risks: Drowsiness, skin rash, nausea, muscle 
weakness, prolonged QT Interval

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above). Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment. Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT

On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself/others. Mr. ___ static 
risk factors noted at that time include chronic mental illness, 
history of abuse/trauma, history of subtance abuse, male gender, 
Caucasian ethnicity.  The modifiable risk factors identified 
were as such: Impulsiveness, aggression/agitation. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including employment, life-satisfaction, future-oriented 
viewpoint, strong social supports, medication compliance, no 
prior suicide attempts/self-injurious behavior, no chronic 
substance use, no access to lethal weapons, reality-testing 
ability.  Overall, based on the totality of our assessment at 
this time, Mr. ___ is not at an acutely elevated risk of 
harm to self nor danger to others.

Prognosis for this patient is guarded.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Vyvanse (lisdexamfetamine) 10 mg oral BID 
3. ValACYclovir 500 mg PO DAILY Oral HSV prophylaxis 
4. Gabapentin 100 mg PO DAILY 

 
Discharge Medications:
1.  CloNIDine 0.1 mg PO QHS 
RX *clonidine HCl 0.1 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  Gabapentin 100 mg PO DAILY  
4.  ValACYclovir 500 mg PO DAILY Oral HSV prophylaxis  
5.  Vyvanse (lisdexamfetamine) 10 mg oral BID  (this medication 
was not given to you during the hospital stay). We recommend 
that you taper it off if your attention is well controlled with 
Bupropion and Clonidine.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intermittent explosive disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___